US06936612B2
8-Cyclopentyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (1.2 g, 3.6 mmol) was dissolved in CH2Cl2 (20 mL) and treated with 2-benzenesulfonyl-3-phenyl-oxaziridine (1.13 g, 4.32 mmol) at room temperature and stirred for 1 day. Following concentration under reduced pressure, the crude reaction mixture was chromatographed on silica gel eluting with ethyl acetate to give 8-cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester as a white solid (0.85 g, 68%). MS (APCI); M++1: Calc'd, 350.1. Found 350.0.

reactant | 8-Cyclopentyl-2-methylsulfanyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 3.6 mmol, 1.2 g | C(C)OC(=O)C1=CC2=C(N=C(N=C2)SC)N(C1=O)C1CCCC1 | C16H19N3O3S
reactant | 2-benzenesulfonyl-3-phenyl-oxaziridine | 4.32 mmol, 1.13 g | C1(=CC=CC=C1)S(=O)(=O)N1OC1C1=CC=CC=C1 | C13H11NO3S
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | 8-cyclopentyl-2-methanesulfinyl-7-oxo-7,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.85 g, 68% | C(C)OC(=O)C1=CC2=C(N=C(N=C2)S(=O)C)N(C1=O)C1CCCC1 | C16H19N3O4S
